US04458076
3-{1-(cyclopropylmethyl)-4-piperidinyl}-1,2-benzisothiazole hydrobromide
A stirred mixture of 5.0 g of 3-(4-piperidinyl)-1,2-benzisothiazole, 2.30 g of cyclopropylmethyl chloride, 7.95 g of potassium carbonate, 0.25 g of potassium iodide and 90 ml of dimethylformamide was heated at 90° for 20 hrs. The reaction mixture was poured into water and extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate and the solvent was removed in vacuo to yield an oil. The oil was dissolved in ether and saturated hydrogen bromide/ether solution was added dropwise to precipitate the salt. The salt was recrystallized two times from ethyl acetate/ethanol to yield 2.0 g (25%) of product, mp 214°-216°.

reactant | 3-(4-piperidinyl)-1,2-benzisothiazole | 5.0 g | N1CCC(CC1)C1=NSC2=C1C=CC=C2 | C12H14N2S
reactant | cyclopropylmethyl chloride | 2.30 g | C1(CC1)CCl | C4H7Cl
reactant | potassium carbonate | 7.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
reactant | hydrogen bromide ether | Br.CCOCC
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 3-{1-(cyclopropylmethyl)-4-piperidinyl}-1,2-benzisothiazole hydrobromide | 2.0 g, 25% | Br.C1(CC1)CN1CCC(CC1)C1=NSC2=C1C=CC=C2 | InChI=1S/C16H20N2S.BrH/c1-2-4-15-14(3-1)16(17-19-15)13-7-9-18(10-8-13)11-12-5-6-12;/h1-4,12-13H,5-11H2;1H
